US09145434B2
1-Cyano-2-(4-cyclopropyl-benzyl)-4-(β-D-glucopyranos-1-yl)-benzene
An Ar filled flask is charged with 2-bromomethyl-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile (1.60 g), 4-cyclopropyl-phenylboronic acid (1.0 g), potassium carbonate (1.85 g) and a degassed 3:1 mixture of acetone and water (22 mL). The mixture is stirred at room temperature for 5 min, before it is cooled in an ice-bath. Then palladium dichloride (30 mg) is added and the reaction mixture is stirred for 16 h at ambient temperature. The mixture is then diluted with brine and extracted with ethyl acetate. The combined extracts are dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is dissolved in methanol (20 mL) and treated with 4 M aqueous potassium hydroxide solution (4 mL). The resulting solution is stirred at ambient temperature for 1 h and then neutralized with 1M hydrochloric acid. The methanol is evaporated, and the residue is diluted with brine and extracted with ethyl acetate. The organic extracts collected are dried over sodium sulfate, and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->8:1).

reactant | 2-bromomethyl-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile | 1.60 g | BrCC1=C(C#N)C=CC(=C1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24BrNO10
reactant | 4-cyclopropyl-phenylboronic acid | 1.0 g | C1(CC1)C1=CC=C(C=C1)B(O)O | C9H11BO2
reactant | potassium carbonate | 1.85 g | C([O-])([O-])=O.[K+].[K+]
product | 1-Cyano-2-(4-cyclopropyl-benzyl)-4-(β-D-glucopyranos-1-yl)-benzene | C(#N)C1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C1CC1 | C23H25NO6
